US06417193B1
N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,2-Diaminoethane
N-t-butyloxycarbonyl-1,2-diaminoethane (355 mg, 2.22 mmol), dimethylaminopyridine (27 mg, 0.222 mmol), and triethylamine (247 mg, 2.44 mmol) were combined in 5 mL of dry dichloromethane. 3-(2-Chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride (607 mg, 2.22 mmol) was added in slowly. The reaction was stirred for 3 hours at room temperature under nitrogen. The reaction was diluted with ethyl acetate and water. The ethyl acetate was separated and washed three times each with 25 mL of 1N aqueous hydrochloric acid and brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was treated with hexanes to crystallize 794 mg of the title compound. (90%). EA calculated for: C18H21N3O4ClF: C, 54.34; H, 5.32; N, 10.56. Found: C, 54.30; H, 5.36; N, 10.44. MS(IS) m/z 398 (M+).

reactant | N-t-butyloxycarbonyl-1,2-diaminoethane | 2.22 mmol, 355 mg | C(C)(C)(C)OC(=O)NCCN | C7H16N2O2
reactant | dimethylaminopyridine | 0.222 mmol, 27 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 2.44 mmol, 247 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(2-Chloro-6-fluorophenyl)-5-methylisoxazol-4-oyl chloride | 2.22 mmol, 607 mg | ClC1=C(C(=CC=C1)F)C1=NOC(=C1C(=O)Cl)C | C11H6Cl2FNO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-t-Butyloxycarbonyl-N′-(3-[2-Chloro-6-Fluorophenyl]-5-Methylisoxazol-4-oyl)-1,2-Diaminoethane | C(C)(C)(C)OC(=O)NCCNC(=O)C=1C(=NOC1C)C1=C(C=CC=C1F)Cl | C18H21ClFN3O4
